US03933906
The starting material is prepared as follows: The mixture of 20 g of 4-(4-acetamidophenylamino)-3-nitro-5-sulfamoylbenzoic acid and 200 ml of acetic anhydride is refluxed for ten minutes while stirring under nitrogen. It is evaporated under reduced pressure, the residue triturated with water and dissolved in 200 ml of 2N aqueous sodium hydroxide. The solution is washed with diethyl ether, filtered and acidified with concentrated hydrochloric acid to pH of 1- and the precipitate filtered off, to yield the 4-(4-acetamidophenylamino)-3-nitro-5-acetylsulfamoylbenzoic acid melting at 175°-185°.

reactant | 4-(4-acetamidophenylamino)-3-nitro-5-sulfamoylbenzoic acid | 20 g | C(C)(=O)NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C15H14N4O7S
reactant | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-(4-acetamidophenylamino)-3-nitro-5-acetylsulfamoylbenzoic acid | C(C)(=O)NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(NC(C)=O)(=O)=O)[N+](=O)[O-] | C17H16N4O8S
